US05578620
2-[5-(3-Fluorophenoxymethyl)-2-oxooxazolidin-3-yl]propanol
A procedure similar to that described in Preparation (b) was repeated, except that 0.93 g of 3-(2-t-butyldimethylsilyloxy-1-methylethyl)-5-(3-fluorophenoxymethyl)oxazolidin-2-one (prepared as described in Preparation 72), 9 ml of anhydrous tetrahydrofuran and 7.2 ml of tetrabutylammonium fluoride (26% w/v in tetrahydrofuran) were used, to give 0.63 g of the title compound having an Rf value of 0.18 (on silica gel thin layer chromatography, using ethyl acetate as the developing solvent).

reactant | 3-(2-t-butyldimethylsilyloxy-1-methylethyl)-5-(3-fluorophenoxymethyl)oxazolidin-2-one | 0.93 g | [Si](C)(C)(C(C)(C)C)OCC(C)N1C(OC(C1)COC1=CC(=CC=C1)F)=O | C19H30FNO4Si
reactant | tetrabutylammonium fluoride | 7.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 2-[5-(3-Fluorophenoxymethyl)-2-oxooxazolidin-3-yl]propanol | 0.63 g | FC=1C=C(OCC2CN(C(O2)=O)C(CO)C)C=CC1 | C13H16FNO4
